US08242145B2
Step 2: [(S)-2-(4-Chloro-phenyl)-1-methyl-2-oxo-ethyl]-carbamic acid benzyl ester
[(S)-1-(Methoxy-methyl-carbamoyl)-ethyl]-carbamic acid benzyl ester (1 g, 3.8 mmol) and 4-bromochlorobenzene (0.9 g, 4.7 mmol) were dissolved in THF (10 mL). The solution was degassed with N2 for 5 minutes, and then cooled to 0° C. Isopropylmagnesium chloride (2M in THF; 4.7 mL, 9.4 mmol) was added slowly, and the reaction was stirred at room temperature for 2 hours. Once no starting material was seen by analytical tlc, the mixture was cooled to 0° C. 1N Aqueous HCl was added, and the organic layer was separated and washed with brine. After concentrating, the crude material was purified by silica gel chromatography to give the desired product as a colorless oil (1 g).

reactant | [(S)-1-(Methoxy-methyl-carbamoyl)-ethyl]-carbamic acid benzyl ester | 3.8 mmol, 1 g | C(C1=CC=CC=C1)OC(N[C@@H](C)C(N(C)OC)=O)=O | C13H18N2O4
reactant | 4-bromochlorobenzene | 4.7 mmol, 0.9 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | Isopropylmagnesium chloride | 9.4 mmol, 2M, 4.7 mL | C(C)(C)[Mg]Cl
reactant | HCl | 1N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [(S)-2-(4-Chloro-phenyl)-1-methyl-2-oxo-ethyl]-carbamic acid benzyl ester | 1 g | C(C1=CC=CC=C1)OC(N[C@H](C(=O)C1=CC=C(C=C1)Cl)C)=O | C17H16ClNO3
